US04250094
In the manner given in Example 1, 8-fluoro-1-(bromomethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine was reacted with diethylamine in the presence of sodium iodide to give 1-[(diethylamino)methyl]-8-fluoro-6-(o-fluorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 8-fluoro-1-(bromomethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CBr)C3=C(C=CC=C3)F)C1 | C17H11BrF2N4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(diethylamino)methyl]-8-fluoro-6-(o-fluorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C(C)N(CC)CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)F)C=C(C=C1)F | C21H21F2N5
